US08383654B2
Step 5: 2-Methyl-4-nitro-benzoic acid ethyl ester
2-Methyl-4-nitrobenzoic acid (10 g, 55.2 mmol) in EtOH (200 mL) was treated with sulfuric acid (2 mL) and stirred at reflux until the reaction was complete. The mixture was worked-up and purified to give the title compound.

reactant | 2-Methyl-4-nitrobenzoic acid | 55.2 mmol, 10 g | CC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 200 mL | CCO | C2H6O
product | 2-Methyl-4-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C10H11NO4
